US07855285B2
A mixture of 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-2,6-dichloropurine (0.98 g, 2.19 mmol) and 2-(2-phenylpropyl)imidazole (4.07 g, 21.9 mmol) in CH3CN (20 mL) was stirred at 65° C. for 17 h (reaction complete, TLC). Volatiles were evaporated in vacuo, and the residue was chromatographed (MeOH/CH2Cl2, 1:90) to give a mixture of diastereomers (quantitative, contaminated with 2-(2-phenylpropyl)imidazole). The mixture was dissolved in HOAc (91 mL), and to the solution was added AcCl (0.92 mL, 1.00 g, 12.8 mmol). The mixture was stirred at 65° C. for 25.5 h in a sealed flask (reaction complete, TLC). Volatiles were evaporated in vacuo, and the residue was dissolved in 0.1 N NaOH/H2O (300 mL) and CHCl3 (150 mL). The mixture was stirred for 2 h, and then neutralized with CO2. The organic phase was separated, and the aqueous phase was extracted with CH2Cl2. The combined organic phase was dried (Na2SO4) and concentrated to dryness. The residue was washed (H2O), suspended in EtOH, and filtered to give 2-chloro-6-[2-(2-phenylpropyl)imidazol-1-yl]purine (0.46 g, 62%) of material. The mother liquor was evaporated to dryness, and the residue was chromatographed (MeOH/CH2Cl2, 1:30→1:12) to give a solid, which was washed (H2O) to give the second crop (0.18 g, 86% total). The combined solids were dissolved in 0.1 N NaOH/H2O (300 mL). Precipitation with CO2 gave 2-chloro-6-[2-(2-phenylpropyl)imidazol-1-yl]purine as an enantiomeric mixture (0.59 g, 80%): mp 258.5-259° C.; UV (MeOH) max 254, 289 nm (∈ 12 000, 4100), min 240, 256 nm (F 3600, 4100); 1H NMR (500 MHz, DMSO-d6) δ 14.00 (s, 1H), 8.68 (s, 1H), 8.35 (s, 1H), 7.13-7.14 (m, 4H), 7.07 (d, J=1.9 Hz, 1H), 7.00-7.04 (m, 1H), 3.58 (dd, J=14.4, 6.7 Hz, 1H), 3.43 (dd, J=14.2, 7.7 Hz, 1H), 3.30 (sext, J=7.0 Hz, 1H), 1.23 (1.22) (s, 3H); 13C NMR (125 MHz, DMSO-d6) δ 156.4, 150.9, 147.9, 146.4, 145.8, 145.7, 128.2, 127.9, 126.6, 125.7, 121.7, 120.5, 38.3, 37.7, 21.0; HRMS m/z 361.0935 (MNa+[C17H15ClN6Na]=361.0944). Anal. Calcd for C17H15ClN6: C, 60.27; H, 4.46; N, 24.81. Found: C, 60.12; H, 4.60; N, 24.66.

reactant | 9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-2,6-dichloropurine | 2.19 mmol, 0.98 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C16H16Cl2N4O7
reactant | 2-(2-phenylpropyl)imidazole | 21.9 mmol, 4.07 g | C1(=CC=CC=C1)C(CC=1NC=CN1)C | C12H14N2
reactant | AcCl | 12.8 mmol, 0.92 mL, 1.00 g | C(=O)(C)Cl | C2H3ClO
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | HOAc | 91 mL | CC(=O)O | C2H4O2
product | 2-chloro-6-[2-(2-phenylpropyl)imidazol-1-yl]purine | 0.46 g, 62% | ClC1=NC(=C2NC=NC2=N1)N1C(=NC=C1)CC(C)C1=CC=CC=C1 | C17H15ClN6
